US08022209B2
To a solution of 4-chloro-2-thiophen-3-yl-pyridine (410 mg, 2.1 mmol), prepared as described in Example 26, Step A, using 2-thiopheneboronic acid, in CH2Cl2 (10 mL), was added SO2Cl2 (1 M in CH2Cl2, 3 mL). The resulting mixture was stirred at room temperature for 8 h, then was poured into water and extracted with CH2Cl2. The organic layer was dried and concentrated to yield a residue. The residue was purified by preparative TLC (hexanes/EtOAc) to yield 2-(2-chloro-thiophen-3-yl)-4-chloro-pyridine.

reactant | 4-chloro-2-thiophen-3-yl-pyridine | 2.1 mmol, 410 mg | ClC1=CC(=NC=C1)C1=CSC=C1 | C9H6ClNS
reactant | 2-thiopheneboronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | water | O | H2O
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-chloro-thiophen-3-yl)-4-chloro-pyridine | ClC=1SC=CC1C1=NC=CC(=C1)Cl | C9H5Cl2NS
